US06159902
A solution of diethyl zinc in n-hexane(1M, 12 ml) was added to a solution of 2-(2,3-dihydro-6-methyl-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methyl-hex-5-en-3-ol (1.6 g) in dichloromethane at 20° C. 1,1-Diiodoethane (3.5 g) was added and the solution warmed to 45° C. for 3 hours. Hydrochloric acid (1N) was added and the organic layer washed (brine), dried (magnesium sulphate) and evaporated. Purification by silica gel column chromatography eluting with n-hexane/ethyl acetate (3:1) gave 2-(2,3-dihydro-6-methyl-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methyl-4-(2-methylcyclopropyl)butan-3-ol (0.55 g), NMR:1.05-1.75(4H), 1.01(d,3H), 1.36(s,3H), 1.52(s,3H), 1.4-1.5(2H), 1.89(s,3H), 3.70(1H), 4.59(1H), 5.10(d,1H), 5.24(d,1H),7.23-7.40(5H). Powdered molecular sieve (4 A, 3.2 g) and pyridinium chlorochromate (0.8 g) were added to a stirred solution of the above compound in dichloromethane at 20° C. After 3 hours, ether was added and the mixture filtered. The filtrate was evaporated and the residue purified by silica gel column chromatography eluting with n-hexane/ethyl acetate (3:1) to give 2-(2,3-dihydro-6-methyl-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methyl-4-(2-methylcyclopropyl)butan-3-one (Compound 1074, 0.47 g), NMR: 0.20-0.30(2H), 0.42-0.52(1H), 0.68-0.78(1H), 1.03(d,3H), 1.42(s,6H), 1.93(s,3H), 2.43(d,2H), 5.26(s,2H), 7.20-7.40(5H).

reactant | diethyl zinc | C(C)[Zn]CC
reactant | 2-(2,3-dihydro-6-methyl-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methyl-hex-5-en-3-ol | 1.6 g | CC1=C(C(N(CO1)C(C)(C(CC=C)O)C)=O)C1=CC=CC=C1 | C18H23NO3
reactant | 1,1-Diiodoethane | 3.5 g | IC(C)I | C2H4I2
reactant | Hydrochloric acid | 1N | Cl | ClH
reactant | n-hexane | 1M, 12 ml | CCCCCC | C6H14
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(2,3-dihydro-6-methyl-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methyl-4-(2-methylcyclopropyl)butan-3-ol | 0.55 g | CC1=C(C(N(CO1)C(C)(C(CC1C(C1)C)O)C)=O)C1=CC=CC=C1 | C20H27NO3
